US07652051B2
Synthesis of N-[4-chloro-3-(trifluoromethyl)phenyl]-5-[4-(pyrimidin-5-yloxy)phenyl]-1,3,4-oxadiazol-2-amine trifluoroacetate salt
4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol (100 mg, 0.281 mmol) was dissolved in ca. 2 mL of anhydrous DMF under argon. Solid potassium bis(trimethylsilyl)amide (140.2 mg, 0.702 mmol) was added and the resulting yellow solution was heated at 80° C. for 15 min. Then solid K2CO3 (19.4 mg, 0.140 mmol) was added, followed by 3-bromopyrimidine (89.4 mg, 0.562 mmol). The reaction mixture was microwaved at 200° C. for 15 min. Then it was diluted with 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by preparative reverse-phase chromatography using acetonitrile/water gradient with 0.1% TFA. The major peak having the mass of the product was collected; solvent was removed in vacuo to give the title product as a white fluffy solid (73.0 mg of white crystalline solid).

reactant | 4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol | 0.281 mmol, 100 mg | ClC1=C(C=C(C=C1)NC1=NN=C(O1)C1=CC=C(C=C1)O)C(F)(F)F | C15H9ClF3N3O2
reactant | potassium bis(trimethylsilyl)amide | 0.702 mmol, 140.2 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | K2CO3 | 0.140 mmol, 19.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromopyrimidine | 0.562 mmol, 89.4 mg | BrN1CN=CC=C1 | C4H5BrN2
solvent | DMF | ca. 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
product | N-[4-chloro-3-(trifluoromethyl)phenyl]-5-[4-(pyrimidin-5-yloxy)phenyl]-1,3,4-oxadiazol-2-amine trifluoroacetate salt | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC=1OC(=NN1)C1=CC=C(C=C1)OC=1C=NC=NC1)C(F)(F)F | InChI=1S/C19H11ClF3N5O2.C2HF3O2/c20-16-6-3-12(7-15(16)19(21,22)23)26-18-28-27-17(30-18)11-1-4-13(5-2-11)29-14-8-24-10-25-9-14;3-2(4,5)1(6)7/h1-10H,(H,26,28);(H,6,7)
